US06194461B1
1) 2-methyl-2-nitro-1-benzyloxypropane
To a suspension of 2-methyl-2-nitro-1-propanol (2.3975 g, 20.13 mmol) and Ag2O (4.6385 g, 20.02 mmol) in DMF (25 ml) was added benzyl bromide (2.65ml, 22.28 mmol) and stirred for 48 hours. The mixture was filtered and the filtrate was added to 5% KHSO4 aqueous solution, extracted three times with ethyl acetate/hexane=1/1 and dried over MgSO4. The mixture was concentrated and purified by silica gel chromatography (toluene) to give the title compound (639.4 mg; 15%).

reactant | 2-methyl-2-nitro-1-propanol | 20.13 mmol, 2.3975 g | CC(CO)(C)[N+](=O)[O-] | C4H9NO3
reactant | benzyl bromide | 22.28 mmol, 2.65ml | C(C1=CC=CC=C1)Br | C7H7Br
solvent | DMF | 25 ml | CN(C)C=O | C3H7NO
product | 2-methyl-2-nitro-1-benzyloxypropane | 639.4 mg, 15% | CC(COCC1=CC=CC=C1)(C)[N+](=O)[O-] | C11H15NO3
